US07498460B2
Ethyl 3-({cis-[2-(ethoxycarbonyl)cyclohexyl]amino}carbonyl)-4-{3-[4-(4-phenoxy-butoxy)phenyl]propoxy}benzoate
39 mg (0.20 mmol) of N-[(3-dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (EDC) and 27.4 mg (0.20 mmol) of 1-hydroxy-1H-benzotriazole hydrate (HOBT) are successively added to a suspension of 100 mg (0.20 mmol) of 5-(ethoxycarbonyl)-2-{3-[4-(4-phenoxybutoxy)phenyl]propoxy}benzoic acid in 30 ml of dichloromethane at RT. After 30 min, 41 mg (0.41 mmol) of triethylamine and 38 mg (0.18 mmol) of ethyl cis-2-amino-1-cyclohexanecarboxylate hydrochloride are added, and the mixture is stirred overnight. 10 ml of water are then added, the phases are separated, and the aqueous phase is extracted with dichloromethane (three times 25 ml). The combined organic phases are washed with saturated sodium chloride solution, dried, (sodium sulphate) and concentrated in a rotary evaporator. The crude product is purified by column chromatography (silica gel 60, mobile phase gradient cyclohexane-->cyclohexane-ethyl acetate 5:1). 102 mg of product are obtained.

reactant | 1-hydroxy-1H-benzotriazole hydrate | 0.20 mmol, 27.4 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 5-(ethoxycarbonyl)-2-{3-[4-(4-phenoxybutoxy)phenyl]propoxy}benzoic acid | 0.20 mmol, 100 mg | C(C)OC(=O)C=1C=CC(=C(C(=O)O)C1)OCCCC1=CC=C(C=C1)OCCCCOC1=CC=CC=C1 | C29H32O7
reactant | triethylamine | 0.41 mmol, 41 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl cis-2-amino-1-cyclohexanecarboxylate hydrochloride | 0.18 mmol, 38 mg | Cl.N[C@@H]1[C@@H](CCCC1)C(=O)OCC
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | Ethyl 3-({cis-[2-(ethoxycarbonyl)cyclohexyl]amino}carbonyl)-4-{3-[4-(4-phenoxy-butoxy)phenyl]propoxy}benzoate | 102 mg | C(C)OC(=O)[C@@H]1[C@@H](CCCC1)NC(=O)C=1C=C(C(=O)OCC)C=CC1OCCCC1=CC=C(C=C1)OCCCCOC1=CC=CC=C1 | C38H47NO8
